US06515149B2
40.0 g of (5-norbornen-2-yl)acetoaldehyde, 23.0 g of ethylene glycol, 120 ml of toluene and 200 mg of p-toluenesulfonic acid were mixed and heated under reflux for one hour while the water formed was removed through an H tube. The reaction mixture was allowed to cool down and poured into 50 ml of saturated sodium bicarbonate water. The resulting mixture separated into two layers. The organic layer was washed with water and saturated sodium chloride water, dried over anhydrous sodium sulfate, and concentrated in vacuum. It was further purified by vacuum distillation, obtaining 50.3 g of 2-(5-norbornen-2-yl)methyl-1,3-dioxolane (boiling point 63° C./200 Pa, yield 95%).

reactant | (5-norbornen-2-yl)acetoaldehyde | 40.0 g | C12C(CC(C=C1)C2)CC=O | C9H12O
reactant | ethylene glycol | 23.0 g | C(CO)O | C2H6O2
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2-(5-norbornen-2-yl)methyl-1,3-dioxolane | 50.3 g, yield 95% | C12C(CC(C=C1)C2)CC2OCCO2 | C11H16O2
